US07943622B2
Step 2. Synthesis of 4-chlorobenzyl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of 1-(4-chlorobenzyl) 4-tert-butyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate TFA salt (129 mg, 0.224 mmol) in MeOH (1 mL). After 12 h, the reaction mixture was concentrated under reduced pressure, yielding 95.7 mg (98%) of the desired product as a white solid. LC-MS: RT=4.74 min, [M+H]+=362.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | 1-(4-chlorobenzyl) 4-tert-butyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate TFA salt | 0.224 mmol, 129 mg | OC(=O)C(F)(F)F.N1=CC(=CC=C1)OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=C(C=C1)Cl
solvent | MeOH | 1 mL | CO | CH4O
product | 4-chlorobenzyl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate dihydrochloride | 95.7 mg, 98% | Cl.Cl.N1=CC(=CC=C1)OCC1N(CCNC1)C(=O)OCC1=CC=C(C=C1)Cl | InChI=1S/C18H20ClN3O3.2ClH/c19-15-5-3-14(4-6-15)12-25-18(23)22-9-8-21-10-16(22)13-24-17-2-1-7-20-11-17;;/h1-7,11,16,21H,8-10,12-13H2;2*1H
